US07592373B2
5.29.a. 4-[(E)-2-(4′-chlorobiphenyl-4-ylcarbamoyl)vinyl]benzyl methanesulfonate
A suspension of 2.3 g (6.3 mmol) of (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-hydroxymethylphenyl)acrylamide in 200 mL of dichloromethane is combined with 1.94 mL (13.9 mmol) of triethylamine and then with 0.54 mL (6.92 mmol) of methanesulfonic acid chloride. The reaction mixture is stirred for 18 hours at ambient temperature, diluted with water, and extracted several times with dichloromethane. The combined organic phases are dried over sodium sulfate, filtered through silica gel and the filtrate is evaporated down. Yield: 1.85 g (67% of theory); C23H20ClN04S (M=441.93); calc.: molecular ion peak (M+H)+: 442/444 (Cl); found: molecular ion peak (M+H)+: 442/444 (Cl); Rf value: 0.73 (silica gel, dichloromethane/methanol/ammonia (90:10:1)).

reactant | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-hydroxymethylphenyl)acrylamide | 6.3 mmol, 2.3 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CO)=O | C22H18ClNO2
reactant | triethylamine | 13.9 mmol, 1.94 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid chloride | 6.92 mmol, 0.54 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[(E)-2-(4′-chlorobiphenyl-4-ylcarbamoyl)vinyl]benzyl methanesulfonate | CS(=O)(=O)OCC1=CC=C(C=C1)\C=C\C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C23H20ClNO4S
